US07572809B2
Similar procedure as described in example 10 was used, starting from 2-piperidin-1-yl-ethanol and (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give [6-methoxy-1-(2-piperidin-1-yl-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 382(MH+).

reactant | 2-piperidin-1-yl-ethanol | N1(CCCCC1)CCO | C7H15NO
reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
product | [6-methoxy-1-(2-piperidin-1-yl-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | COC=1C=C2C=C(N=C(C2=CC1)OCCN1CCCCC1)NC1=NNC(=C1)C | C21H27N5O2
